US08217064B2
Ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate (0.75 g, 1.70 mmol) was dissolved in anhydrous DMF (20 mL), NaH (60% wt. in paraffin oil, 0.049 g, 2.04 mmol) was added at 0° C. The reaction mixture was stirred for 30 min at room temperature, upon which isobutyl bromide (0.2 mL, 1.87 mmol), was added in a drop wise manner at 0° C. The reaction mixture was stirred an additional 1 h at 0° C. and then saturated NH4Cl solution (10 mL) was added. The reaction mixture was extracted with EtOAc (3×20 mL) and the combined organic layers were washed with water (2×10 mL) and brine (10 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to give a colorless oil, witch was purified by flash column chromatography to give ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoate (0.5 g, 59% yield) as a thick liquid.

reactant | Ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)acetate | 1.70 mmol, 0.75 g | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)CC(=O)OCC | C19H15ClF6O3
reactant | NaH | 2.04 mmol, 0.049 g | [H-].[Na+]
reactant | isobutyl bromide | 1.87 mmol, 0.2 mL | C(C(C)C)Br | C4H9Br
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoate | 0.5 g, 59% yield | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)CC(C)C | C23H23ClF6O3
